US06177440B1
A solution of the 9-[(phenyl)methyl]-2-methyl-4-hydroxy-5-carbomethoxy carbazole (470 mg, 1.36 mM) in 20 ml THF and 80 mL concentrated aqueous ammonium hydroxide was sonicated for 6 hours at 30-40° C. The precipitated solid was filtered and triturated with Et2O to afford 200 mg (44%) of 9-[(phenyl)methyl]-2-methyl-4-hydroxy-5-carbamoyl carbazole. 1H NMR (DMSO-d6) δ 10.5 (s, 1H), 8.8 (bs, 1H), 8.4 (bs, 1H), 7.75 (m, 1H), 7.4 (m, 2H), 7.25 (m, 3H), 7.1 (m, 2H), 6.95 (s, 1H), 6.45 (s, 1H), 5.65 (s, 2H), 2.4 (s, 3H). MS (ES) m/e 314, 331.

reactant | 9-[(phenyl)methyl]-2-methyl-4-hydroxy-5-carbomethoxy carbazole | 1.36 mM, 470 mg | C1(=CC=CC=C1)CN1C2=CC=CC(=C2C=2C(=CC(=CC12)C)O)C(=O)OC | C22H19NO3
reactant | ammonium hydroxide | 80 mL | [OH-].[NH4+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 9-[(phenyl)methyl]-2-methyl-4-hydroxy-5-carbamoyl carbazole | 200 mg, 44% | C1(=CC=CC=C1)CN1C2=CC=CC(=C2C=2C(=CC(=CC12)C)O)C(N)=O | C21H18N2O2
